US04404203
Similarly reaction of 2-methyl-6-(4-chlorophenyl)-3(2H)-pyridazinone with chlorosulfonic acid followed by ammonia according to the procedure of this Example gives 2-chloro-5-(1,6-dihydro-1-methyl-6-oxo-3-pyridazinyl)benzenesulfonamide.

reactant | 2-methyl-6-(4-chlorophenyl)-3(2H)-pyridazinone | CN1N=C(C=CC1=O)C1=CC=C(C=C1)Cl | C11H9ClN2O
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | ammonia | N | H3N
product | 2-chloro-5-(1,6-dihydro-1-methyl-6-oxo-3-pyridazinyl)benzenesulfonamide | ClC1=C(C=C(C=C1)C1=NN(C(C=C1)=O)C)S(=O)(=O)N | C11H10ClN3O3S
